US07470684B2
3-(3,4-Dichloro-phenyl)-dihydro-furan-2-one
A mixture of 30 g (137 mmol) (3,4-Dichloro-phenyl)-acetic acid methyl ester (commercially available), 6.47 g (151 mmol) NaH (55%) and 35.8 g (171 mmol) 2-(2-Bromo-ethoxy)-tetrahydro-pyran in 100 mL DMF was stirred at room temperature for 17 h. The mixture was evaporated to dryness and partitioned between water and ethyl acetate. The combined organic phases were washed with NaCl aq., dried with Na2SO4 and evaporated. The residue was treated with 400 mL 4N HCl in dioxane in 250 mL methanol and stirred for 16 h at room temperature. The mixture was evaporated to dryness and subjected to column chromatography on silica eluting with a gradient formed from ethyl acetate and heptane. The combined product fractions were evaporated to yield 18.5 g (58%) of the title compound as yellow oil.

reactant | (3,4-Dichloro-phenyl)-acetic acid methyl ester | 137 mmol, 30 g | COC(CC1=CC(=C(C=C1)Cl)Cl)=O | C9H8Cl2O2
reactant | NaH | 151 mmol, 6.47 g | [H-].[Na+]
reactant | 2-(2-Bromo-ethoxy)-tetrahydro-pyran | 171 mmol, 35.8 g | BrCCOC1OCCCC1 | C7H13BrO2
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
product | 3-(3,4-Dichloro-phenyl)-dihydro-furan-2-one | 18.5 g, 58% | ClC=1C=C(C=CC1Cl)C1C(OCC1)=O | C10H8Cl2O2
